*$
* PART NUMBER:NJM2058
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (C) Bee Technologies Inc. 2006
.Subckt NJM2058 OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 V- 
+ +IN4 -IN4 OUT4
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2058_ME
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2058_ME
X_U3     +IN3 -IN3 V+ V- OUT3 NJM2058_ME
X_U4     +IN4 -IN4 V+ V- OUT4 NJM2058_ME
.ends  NJM2058
.subckt NJM2058_ME  1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 9.2264E6 -1E3 1E3 9E6 -9E6
  ga    6  0 11 12 433.54E-6
  gcm   0  6 10 99 13.710E-9
  iee   3 10 dc 30.042E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 2.3066E3
  rc2   4 12 2.3066E3
  re1  13 10 581.57
  re2  14 10 581.57
  ree  10 99 6.6573E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.2874E3
  vb    9  0 dc 0
  vc    3 53 dc 1.7708
  ve   54  4 dc 1.7708
  vlim  7  8 dc 0
  vlp  91  0 dc 6.5000
  vln   0 92 dc 6.5000
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=552.49)
.model qx2 PNP(Is=1.008877E-15 Bf=1.0101E3)
.ends
*$
