*$
* PART NUMBER: NJM2100 
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2005
.Subckt NJM2100 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2100_ME
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2100_ME
.ends  NJM2100
.subckt NJM2100_ME  1 2 3 4 5
  c1   11 12 1.0000E-12
  c2    6  7 26.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 175.00E3 -1E3 1E3 180E3 -180E3
  ga    6  0 11 12 2.1619E-3
  gcm   0  6 10 99 451.32E-9
  iee   3 10 dc 120.20E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 442.10
  rc2   4 12 442.10
  re1  13 10 11.009
  re2  14 10 11.009
  ree  10 99 1.6638E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 50.060
  vb    9  0 dc 0
  vc    3 53 dc 1.0979
  ve   54  4 dc 1.0979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=560.75)
.model qx2 PNP(Is=827.3700E-18 Bf=618.56)
.ends
*$