* Z:\media\data\CODES\LTSpice_projects\Regler\PID.asc
V1 V+ 0 15V
V2 V- 0 -15V
V3 W 0 PULSE(0 1 100u 10n 10n) AC ac 1
R2 N003 N002 13k
R1 N002 Error 1k
Cd N002 Error 7.4µ
Ci Y N003 6.58µ
R3 Error N001 1k
R4 N001 W 1k
R5 N004 X 1k
R6 0 N004 1k
XU1 Y X PT2 T=8ms d=0.05 gain=1
XU3 w PT2_ohne PT2 T=8ms d=0.05 gain=1
XU4 0 N002 V+ V- Y level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N004 N001 V+ V- Error NJM4580
XU5 Y PT2_open PT2 T=8ms d=0.05 gain=1
.include LM675.sub
* Kp=R2/R1+Cd/Ci\nKi=1/(R1*Ci)\nKd=R2*Cd
.ac oct 100 1 1meg
.inc Z:\media\data\CODES\LTSpice_projects\regelungstechnik_Symbole\PT2.sub
.include NJM4580_2.lib
.lib PT1.sub
.lib UniversalOpamps2.sub
.backanno
.end
