* Z:\media\data\CODES\LTSpice_projects\bandgap_zelle\diodenzelle.asc
Qa1 a a 0 0 CA3046
Qb1 N002 N002 0 0 CA3046
Ra1 bg a 1k
Rb1 bg b 10k
R2 b N002 1k
XU2 a b N001 opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 N001 N003 3k
R7 N003 0 1k
Vbg bg 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;dc vbg 0 1.7 0.01
.dc Vbg 0 1.7 0.01
.param Rdc=100meg
.param Rop=1m
.param Rs=10k
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
