* Z:\media\data\CODES\LTSpice_projects\bandgap_zelle\transistorzelle_mit_startsch.asc
Qa1 a Vref N005 0 CA3046
Qb1 b Vref N004 0 CA3046
Ra1 N001 a 1k
Rb1 N001 b 10k
R2 N004 N005 1k
R1 N005 0 800
Vbg N006 0 1
Vp1 N001 0 10
Qb2 b N003 N004 0 CA3046
Rs N001 N003 {Rs}
D1 N003 0 1N4148
XU1 a b N002 opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N002 BG 3k
R4 BG 0 1k
Rop Vref BG {Rop}
Rdc Vref N006 {Rdc}
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc temp 0 100 2
.param Rdc=100meg
.param Rop=1m
.param Rs=10k
* .step param Rs list 1k 10k 100k
.param R1=800
* .step param R1 list 800 925
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
