* Z:\home\mainster\CODES_local\LTSpice_projects\bandgap_zelle\transistorzelle_ohne_startsch.asc
Qa a ref N004 0 CA3046
Qb b ref N005 0 CA3046 5
Ra Vcc a 1k
Rb Vcc b 10k
R2 N005 N004 1k
R1 N004 0 925
R5 op N003 {Rf}
R6 N003 0 1k
XU2 b a op opamp_param_3 Vp={Vcc} Vm={-Vcc} Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Qs b N002 N005 0 CA3046
Rs Vcc N001 10k
Ds N002 0 D
XU1 Vcc vdc_single V={Vcc}
XU3 b a ba arrActive
XU5 N001 N002 jumperConfig close={starthelp} R_open=100meg R_close=1u
V1 ref 0 1.25
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
* .tran 30m startup
.param BG=1
+ Vcc = 10V
+ Rf = 3k
+ starthelp = 1
.dc V1 0.2 1.6 5m
;.step param ref 0.2 1.6 10m
.step param starthelp list 1 0
.lib EIT_sub/vdc_single.sub
.lib EIT_sub\opamp_parametrierbar.sub
.lib MDB_sub/arroActive.sub
.lib MDB_sub/jumper_setable.sub
.backanno
.end
