* Z:\home\mainster\CODES_local\LTSpice_projects\digitals\WS1415_A1.asc
XR1 R1+a clk NC_01 R1a DFF_no TD=10ns
XU7 B P001 inv_mdb Rout=10 TD=10n
XU8 R1 P002 inv_mdb Rout=10 TD=10n
XR0 R0+a clk NC_02 R0a DFF_no TD=10ns
V1 N001 0 PULSE({VDIG} 0 {DELAY} 10n 10n {1/(2*fclk)} {1/fclk})
XU11 P003 clk D2 P004 D0 B D2 D3 NC_03 bin_4_u_cnt TD=10ns
XU12 P003 vdc_single v={vpwr$_digital}
XU13 clk clk_ probe_dig T=0
V2 clk 0 PULSE({VDIG} 0 {DELAY} 10n 10n {1/(2*fclk)} {1/fclk})
XU14 P005 clk P006 P007 clk1k clk2k clk4k clk8k NC_04 bin_4_u_cnt TD=10ns
XU16 R1 R1_ probe_dig T=5
XU17 R1+ R1+_ probe_dig T=7
XU18 R0+ R0+_ probe_dig T=6
XU19 R0 R0_ probe_dig T=4
XU20 B B_ probe_dig T=3
XU21 S S_ probe_dig T=2
XU22 Z Z_ probe_dig T=1
XU28 P007 vdc_single
XU34 0 PL! probe_dig T=9
XU35 0 CP! probe_dig T=8
XU36 0 c0! probe_dig T=10
XU24 P004 vdc_single
XU23 P006 vdc_single
XU15 P005 vdc_single
XU1 S B R0 NC_07 N002 AND_3rin TD=10n Rin=20meg
XU2 B R0 R1 NC_08 N003 AND_3rin TD=10n Rin=20meg
XU3 S P001 P002 NC_09 N004 AND_3rin TD=10n Rin=20meg
XU4 B R0 R1 NC_10 N005 AND_3rin TD=10n Rin=20meg
XU5 S R0 NC_11 N006 AND_2rin TD=10n Rin=20meg
XU9 N002 N003 NC_12 R1+ or_2rin TD=10n Rin=20meg
XU10 N004 N005 N006 NC_13 R0+ or_3rin TD=10n Rin=20meg
B1 S 0 V=5*buf(delay(V(clk),600u))
XU6 R1 R1a jumperConfig cl={DFF} R_open=100meg R_close=1u
XU25 R1+ R1+a jumperConfig cl={DFF} R_open=100meg R_close=1u
XU26 R0+ R0+a jumperConfig cl={DFF} R_open=100meg R_close=1u
XU27 R0 R0a jumperConfig cl={DFF} R_open=100meg R_close=1u
XU29 R1 R1b jumperConfig cl={TFF} R_open=100meg R_close=1u
XU33 R1+b clk NC_14 R1b TFF_no TD=10ns
XU37 R0+b clk NC_15 R0b TFF_no TD=10ns
XU30 R1+ R1+b jumperConfig cl={TFF} R_open=100meg R_close=1u
XU31 R0+ R0+b jumperConfig cl={TFF} R_open=100meg R_close=1u
XU32 R0 R0b jumperConfig cl={TFF} R_open=100meg R_close=1u
XU38 R1a z jumperConfig cl={DFF} R_open=100meg R_close=1u
XU39 R1b z jumperConfig cl={TFF} R_open=100meg R_close=1u
.tran {8*1/fclk+DELAY} startup
.lib cd4000.lib
.param fclk = 1k
.param N = 32
.param NN = 8
.param DELAY = 0
.param vpwr$_digital=5V
.param VDIG = 5V
.param sel_ff=1
+ DFF = {FF}
+ TFF = {1-FF}
.step param FF list 0 1
.lib EIT_sub\FF_and_counters.sub
.lib EIT_sub\or_and_gates.sub
.lib EIT_sub\probe_dig.sub
.lib EIT_sub\vdc_single.sub
.lib MDB_sub/jumper_setable.sub
.lib MDB_sub\inverter.sub
.backanno
.end
